US05962455
A solution of 1-(3-aminophenyl)-1-(4-phenylpiperazin-1-yl)-4-methyl-cyclohexane (cis isomer, 205 mg, 0.587 mmol) and triethylamine (205 μL, 1.47 mmol) in dry CH2Cl2 (15 mL) was brought to 0° C. using an ice bath. Phosgene (1.93 M in toluene, 365 μL) was added dropwise and the resulting mixture was stirred at 0° C., under a dry N2 atmosphere, for 30 minutes. 3-fluoroaniline (68 μl, 0.705 mmol) was added via syringe and the reaction was allowed to come to room temperature. After 3 h the mixture was diluted with an equal volume of CH2Cl2, washed with H2O, dried (Na2SO4) and concentrated to give the crude urea. The residue was triturated with ether and the resulting solid collected on a sintered glass funnel and washed with ether. Preparative plate chromatography (50% EtOAc/hexanes) afforded pure N-[3-[4-methyl-1-(4-phenyl-1 piperazinyl)cyclohexyl]phenyl]-N'-3-fluorophenyl-urea (cis isomer) as an off-white solid. The HCl salt was prepared by adding excess saturated EtOAc/HCl solution to the free base in dry MeOH. Concentration of the homogeneous solution yielded a solid which was washed with EtOAc and dried under vacuum. mp=149-151° C.

reactant | 1-(3-aminophenyl)-1-(4-phenylpiperazin-1-yl)-4-methyl-cyclohexane | 0.587 mmol, 205 mg | NC=1C=C(C=CC1)C1(CCC(CC1)C)N1CCN(CC1)C1=CC=CC=C1 | C23H31N3
reactant | triethylamine | 1.47 mmol, 205 μL | C(C)N(CC)CC | C6H15N
reactant | Phosgene | 1.93 M, 365 μL | C(=O)(Cl)Cl | CCl2O
reactant | 3-fluoroaniline | 0.705 mmol, 68 μl | FC=1C=C(N)C=CC1 | C6H6FN
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
product | N-[3-[4-methyl-1-(4-phenyl-1 piperazinyl)cyclohexyl]phenyl]-N'-3-fluorophenyl-urea | CC1CCC(CC1)(N1CCN(CC1)C1=CC=CC=C1)C=1C=C(C=CC1)NC(=O)NC1=CC(=CC=C1)F | C30H35FN4O
